US05045549
6-Fluoro-1-(2,4-difluorophenyl)-1,4-dihydro7-(5-methyl-2,5-diazabicyclo(2.2.1)hept-2-yl)-4-oxoquinoline-3-carboxylic acid
15 g (37.36 m Mol) of the mixed anhydride of 7-chloro-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and difluoroboronic acid (obtained by heating 7-chloro-6-fluoro-1-(2.4-difluoro- phenyl)-1,4-dihycho-4-oxoquinoline-3-carboxylic acid in 60% aqueous fluoroboronic acid 15.36 g (56 m Mol) of the dihydrobromide of 2-methyl-2,5-diazabicyclo-(2.2.1)heptane and 31 ml (0.224 mol) triethylamine was stirred in 200 ml of dry DMSO at room temperature for 6 days. Then the reaction mixture was poured into 800 ml of cold water and the resultant precipitate collected by filtration washed with water and then heated to reflux with stirring in a mixture of 100 ml dioxane and 150 ml 3N NaOH for 1 hr. After cooling and with stirring, 500 ml of conc. HCl was added. After stirring for 1 hr., the undissolved material was removed by filtration, to give a clear solution which was extracted multiple times with methylene chloride. The aqueous phase was cooled in an ice bath and brought to pH 7.4 by the addition of dilute NaOH. The resultant was extracted with chloroform and the chloroform phase dried over sodium sulfate and the chloroform removed in vacuo, the resulting dark brown oil was recrystallized from 450 ml ethanol to give 3.15 g (18.8%) of the product as a hydrate, mp 215° C.-220° C. dec.

reactant | 7-chloro-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | ClC1=C(C=C2C(C(=CN(C2=C1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | C16H7ClF3NO3
reactant | difluoroboronic acid | FOBOF | BF2HO2
reactant | 2-methyl-2,5-diazabicyclo-(2.2.1)heptane | CN1C2CNC(C1)C2 | C6H12N2
reactant | triethylamine | 0.224 mol, 31 ml | C(C)N(CC)CC | C6H15N
solvent | fluoroboronic acid | 15.36 g | FB(O)O | BFH2O2
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
solvent | water | 800 ml | O | H2O
product | 6-Fluoro-1-(2,4-difluorophenyl)-1,4-dihydro7-(5-methyl-2,5-diazabicyclo(2.2.1)hept-2-yl)-4-oxoquinoline-3-carboxylic acid | 3.15 g, 18.8% | FC=1C=C2C(C(=CN(C2=CC1N1C2CN(C(C1)C2)C)C2=C(C=C(C=C2)F)F)C(=O)O)=O | C22H18F3N3O3
